US06495546B1
Under nitrogen, a mixture of 8-[(2S)-3-phenoxy-2-(triethylsilyloxy)propylamino] -6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ol (17 g) and di-tert-butyl dicarbonate (9.5 g) in tetrahydrofuran (180 ml) was stirred at room temperature for 18 hours. After evaporation, the residue was purified by column chromatography on silica gel (hexane:ethyl acetate =20:1 to 10:1) to give N-(3-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxycarbonylamine (17 g).

reactant | 8-[(2S)-3-phenoxy-2-(triethylsilyloxy)propylamino] -6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ol | 17 g | O(C1=CC=CC=C1)C[C@H](CNC1CCCC2=C(C1)C=C(C=C2)O)O[Si](CC)(CC)CC | C26H39NO3Si
reactant | di-tert-butyl dicarbonate | 9.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | N-(3-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxycarbonylamine | 17 g | OC1=CC2=C(CCCC(C2)N(C[C@@H](COC2=CC=CC=C2)O[Si](CC)(CC)CC)C(=O)OC(C)(C)C)C=C1 | C31H47NO5Si
